US07851473B2
N-1,2-Benzisoxazol-3-yl-4-(3-phenyl-1,2,4-oxadiazol-5-yl)piperazine-1-carboxamide
To a solution of 5-chloro-3-phenyl-1,2,4-oxadiazole (99.9 mg, 0.555 mmol) and N-1,2-benzisoxazol-3-ylpiperazine-1-carboxamide trifluoroacetate (200 mg, 0.555 mmol) in N,N-dimethylformamide (2 ml) was added triethylamine (0.389 ml, 2.78 mmol) at room temperature, and the mixture was stirred at room temperature for 5 minutes. The reaction mixture was poured to water, and the desired product as a solid was separated by filtration. The resulting solid was recrystallized from a mixed solvent of ethyl acetate and tetrahydrofuran to give 157 mg (72.4%) of the desired product. mp 215-216° C.

reactant | 5-chloro-3-phenyl-1,2,4-oxadiazole | 0.555 mmol, 99.9 mg | ClC1=NC(=NO1)C1=CC=CC=C1 | C8H5ClN2O
reactant | N-1,2-benzisoxazol-3-ylpiperazine-1-carboxamide trifluoroacetate | 0.555 mmol, 200 mg | FC(C(=O)O)(F)F.O1N=C(C2=C1C=CC=C2)NC(=O)N2CCNCC2
reactant | triethylamine | 2.78 mmol, 0.389 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-1,2-Benzisoxazol-3-yl-4-(3-phenyl-1,2,4-oxadiazol-5-yl)piperazine-1-carboxamide | 157 mg, 72.4% | O1N=C(C2=C1C=CC=C2)NC(=O)N2CCN(CC2)C2=NC(=NO2)C2=CC=CC=C2 | C20H18N6O3
